US05846982
A solution of 1.04 gm (2.83 mMol) 6-chloro-2-(4-hydroxy-1-(tert-butoxycarbonyl)piperidin-4-yl)benzothiophene in 30.0 mL dichloromethane was subjected to the reaction conditions described in Example 51, providing 0.64 gm (90%) of 6-chloro-2-(1,2,3,6-tetrahydropyridin-4-yl)benzothiophene as a tan powder.

reactant | 6-chloro-2-(4-hydroxy-1-(tert-butoxycarbonyl)piperidin-4-yl)benzothiophene | 2.83 mMol, 1.04 gm | ClC1=CC2=C(C=C(S2)C2(CCN(CC2)C(=O)OC(C)(C)C)O)C=C1 | C18H22ClNO3S
solvent | dichloromethane | 30.0 mL | ClCCl | CH2Cl2
product | 6-chloro-2-(1,2,3,6-tetrahydropyridin-4-yl)benzothiophene | 0.64 gm, 90% | ClC1=CC2=C(C=C(S2)C=2CCNCC2)C=C1 | C13H12ClNS
